US04113722
(A) 11β-(Acetoxy)-21-chloro-9-fluoropregna-1,4,16-triene-3,20-dione
A suspension of 21-chloro-9-fluoro-11β-hydroxypregna-1,4,16-triene-3,20-dione (2.1g) in a mixture of glacial acetic acid (30 ml) and acetic anhydride (30 ml) containing p-toluenesulfonic acid hydrate (2.1g) is stirred at room temperature. After 30 hours the solution is mixed with sodium acetate hydrate (5.0g) and evaporated in vacuo. The residue is dissolved in chloroform, washed with water, dried and evaporated to afford the title compound. One crystallization from acetone affords 1.85g of the title compound, melting point 222°-223° C. (dec).

reactant | 21-chloro-9-fluoro-11β-hydroxypregna-1,4,16-triene-3,20-dione | ClCC(C1=CC[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3([C@H](C[C@]12C)O)F)=O)=O | C21H24ClFO3
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | p-toluenesulfonic acid hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium acetate hydrate | 5.0g | O.C(C)(=O)[O-].[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 11β-(Acetoxy)-21-chloro-9-fluoropregna-1,4,16-triene-3,20-dione | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC=C(C(CCl)=O)[C@]2(C1)C)=O)C)F | C23H26ClFO4
